US07868026B2
N-(3-fluorobenzyl)-2-[(pyridin-3-ylamino)sulfonyl]benzamide
The title compound was prepared according to procedures described above, using methyl 2-[(pyridin-3-ylamino)sulfonyl]benzoate and 3-fluorobenzylamine. The title compound was further purified by dissolving 25 g in EtOH (300 mL) and gently heating using water bath to 80° C. The resulting solids material were then slowly dissolved and more EtOH (50 mL) was added to completely dissolve all the solids. The solution left at room temperature to crystallize for 1 h. The resulting crystals were collected and dried under high vacuum for 16 h to afford the title compound as a crystalline solid (21 g, 84%). 1H NMR (400 MHz, DMSO-D6) δ 9.76 (s, 1H) 9.32 (t, 1H) 8.31 (d, 1H) 8.25 (d, 1H) 7.66-7.78 (m, 2H) 7.50-7.65 (m, 3H) 7.39 (q, 1H) 7.23-7.29 (m, 3H) 7.09 (t, 1H) 4.54 (d, 2H).

reactant | methyl 2-[(pyridin-3-ylamino)sulfonyl]benzoate | N1=CC(=CC=C1)NS(=O)(=O)C1=C(C(=O)OC)C=CC=C1 | C13H12N2O4S
reactant | 3-fluorobenzylamine | FC=1C=C(CN)C=CC1 | C7H8FN
product | N-(3-fluorobenzyl)-2-[(pyridin-3-ylamino)sulfonyl]benzamide | 21 g, 84% | FC=1C=C(CNC(C2=C(C=CC=C2)S(=O)(=O)NC=2C=NC=CC2)=O)C=CC1 | C19H16FN3O3S
